US05434307
A 2.40 g (0.008 mol) sample of the acid was placed in a 250 mL Erlenmeyer flask and dissolved with 18 mL water and 9 mL tertiary butyl alcohol. The mixture was stirred continuously for homogeneity, followed by addition of 1.95 g (0.0086 mol) periodic acid in one portion. The reaction mixture was then stirred for 5 hours, after which 150 mL ice-cold water was added. The mixture was stirred for another 30 minutes and the resulting solid was vacuum-filtered to give crude 12-oxododecanoic acid. The acid was washed, then recrystallized with light petroleum (bp 35°-60° C.) to give 1.22 g 12-oxododecanoic acid (73% yield, m.p. 53°-54° C.) and hexanal. There was no attempt to isolate the hexanal.

reactant | water | 18 mL | O | H2O
reactant | periodic acid | 0.0086 mol, 1.95 g | I(=O)(=O)(=O)O | HIO4
reactant | hexanal | C(CCCCC)=O | C6H12O
solvent | tertiary butyl alcohol | 9 mL | C(C)(C)(C)O | C4H10O
product | 12-oxododecanoic acid | 1.22 g, 73% yield | O=CCCCCCCCCCCC(=O)O | C12H22O3
